US07230031B2
1-[2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone
The title compound was prepared in a similar manner to those described in Reference Example 56 using 4-(4-methoxyphenoxy)-5-methyl-7-nitroindane instead of ethyl N-[7-(4-methoxyphenoxy)-6-methylindan-4-yl]malonamate and using acetic acid instead of 4-fluorophenylacetic acid.

reactant | 4-(4-methoxyphenoxy)-5-methyl-7-nitroindane | COC1=CC=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1 | C17H17NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[2-methoxy-5-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone | COC1=C(C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])C(C)=O | C19H19NO5
